US09034900B2
Step 2: 5-bromo-3-(ethylamino)-1-methylpyridin-2-one
To a solution of tert-butyl N-(5-bromo-1-methyl-2-oxopyridin-3-yl)-N-ethylcarbamate (99.0 mg, crude) in DCM (10 mL) was added HCl/dioxane (1 mL, 4 M) dropwise with stirring at 30° C. The reaction mixture was stirred for 30 min at 30° C. Then the mixture was filtered and the filter cake collected. The filtrate was adjusted to pH=9 with saturated aqueous NaHCO3, extracted with EA (20 mL), dried over Na2SO4, filtered and concentrated to give a light green solid which is combined with the filter cake to give the title compound (46.0 mg) which was carried forward without purification. 1H NMR (CDCl3 400 MHz): δ 6.72 (d, J=2.4 Hz, 1H), 6.20 (d, J=1.6 Hz, 1H), 3.51 (s, 3H), 3.09 (q, J=7.2 Hz, 2H), 1.27 (t, J=7.2 Hz, 3H). LCMS (M+H)+ 231.

reactant | tert-butyl N-(5-bromo-1-methyl-2-oxopyridin-3-yl)-N-ethylcarbamate | 99.0 mg | BrC=1C=C(C(N(C1)C)=O)N(C(OC(C)(C)C)=O)CC | C13H19BrN2O3
reactant | HCl dioxane | 4 M, 1 mL | Cl.O1CCOCC1
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-3-(ethylamino)-1-methylpyridin-2-one | 46.0 mg | BrC=1C=C(C(N(C1)C)=O)NCC | C8H11BrN2O
